US07560481B2
(1H-Indol-3-yl)-(2,2,3,3-tetrafluoro-1-methylcyclobutyl)methanone
A mixture of 2,2,3,3-tetrafluoro-1-(methyl)-cyclobutanecarbonyl chloride (ABCR, 1.0 g, 4.9 mmol), indole (0.57 g, 4.9 mmol), ethylmagnesium bromide (1.0 M solution in THF, 5.4 ml, 5.4 mmol) and zinc chloride (1.0 M solution in Et2O, 5.4 mL, 5.4 mmol) in 50 mL of dichloromethane was processed as described in Example 1B to provide the title compound (0.40 g, 1.4 mmol, 29% yield). MS (DCI/NH3) m/z 286 (M+H)+.

reactant | 2,2,3,3-tetrafluoro-1-(methyl)-cyclobutanecarbonyl chloride | 4.9 mmol, 1.0 g | FC1(C(CC1(F)F)(C(=O)Cl)C)F | C6H5ClF4O
reactant | indole | 4.9 mmol, 0.57 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | ethylmagnesium bromide | 5.4 mmol, 1.0 M, 5.4 ml | C(C)[Mg]Br
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
catalyst | zinc chloride | 5.4 mmol, 1.0 M, 5.4 mL | [Cl-].[Zn+2].[Cl-]
product | (1H-Indol-3-yl)-(2,2,3,3-tetrafluoro-1-methylcyclobutyl)methanone | 1.4 mmol, 0.40 g, 29% yield | N1C=C(C2=CC=CC=C12)C(=O)C1(C(C(C1)(F)F)(F)F)C | C14H11F4NO
